data/mechanism_extracts/GreenChem/10.1039_d0gc03890c.json
{"doi": "10.1039_d0gc03890c", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical anti-Markovnikov hydroboration of styrenes with HBpin in CH3CN/THF using DIEA, proceeding via a radical pathway with CH3CN as the primary hydrogen donor to the benzyl position", "mechanism_family": ["radical_anodic", "paired_electrolysis", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of DIEA to an N-centered radical cation, which then oxidizes CH3CN and HBpin to their radical cations; the resulting Bpin radical adds to styrene and the benzyl radical/boronate alkyl intermediate is reduced at the cathode, where H+ is also reduced to H2", "key_intermediates": [{"name": "DIEA N-centered radical cation (A)", "smiles": null, "role": "transient"}, {"name": "CH3CN radical cation (B)", "smiles": null, "role": "transient"}, {"name": "HBpin radical cation (C)", "smiles": null, "role": "transient"}, {"name": "cyanomethyl radical •CH2CN (D)", "smiles": "[CH2]C#N", "role": "reactive"}, {"name": "boryl radical •Bpin (E)", "smiles": null, "role": "reactive"}, {"name": "benzyl carbon-centered radical PhCH•CH2Bpin (F)", "smiles": null, "role": "reactive"}, {"name": "boronate alkyl anion intermediate (G)", "smiles": null, "role": "transient"}, {"name": "alkyl-galvinoxyl adduct 8", "smiles": null, "role": "off_pathway"}, {"name": "alkyl-TEMPO adduct 9", "smiles": null, "role": "off_pathway"}, {"name": "DMPO-CH2CN spin adduct 10", "smiles": null, "role": "off_pathway"}], "electron_flow": "Anode oxidizes DIEA to a radical cation, which abstracts electrons from CH3CN and HBpin, generating •CH2CN and •Bpin after deprotonation by THF/DIEA. The boryl radical adds to styrene to give a benzyl radical, which is reduced at the cathode to a boronate alkyl anion that is protonated by H+ to deliver the product, with concomitant cathodic H2 evolution.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product yield decreased from 72% to 8% with increasing TEMPO loading; alkyl-TEMPO adduct 9 (m/z 387.3053/388.3030) isolated, confirming benzyl C-radical"}, {"name": "Galvinoxyl free radical", "smiles": null, "purpose": "radical_trap", "observation": "No product formed with 1 equiv; alkyl-galvinoxyl adduct 8 (m/z 548.4141/549.4119) detected by MS, confirming Bpin radical"}, {"name": "DMPO", "smiles": "CC1(C)C=C[N+]([O-])=C1", "purpose": "radical_trap", "observation": "EPR signal (g=2.0052, A_N=14.47 G, A_H=20.82 G) and MS detection of DMPO-CH2CN adduct 10 confirmed •CH2CN"}, {"name": "THF-d8 / CD3CN", "smiles": null, "purpose": "isotope_label", "observation": "No D incorporation with CH3CN/THF-d8 (THF not H source); with CD3CN/THF gave d1-3a:3a = 84:16 with D at benzyl position, identifying CH3CN as primary H donor"}, {"name": "d1-HBpin (DBpin)", "smiles": null, "purpose": "isotope_label", "observation": "DBpin + styrene gave d1-3a:3a = 16:84, indicating HBpin contributes only minor H at benzyl site"}, {"name": "d8-styrene", "smiles": null, "purpose": "isotope_label", "observation": "d8-styrene + HBpin gave d8-3a (65%), confirming Bpin originates from HBpin"}, {"name": "H2 evolution monitoring", "smiles": null, "purpose": "other", "observation": "H2 bubbles detected by GC; rate decays to zero at ~180 min matching reaction time; substrate-free runs show CH3CN+DIEA generate large H2, while THF is not a H+ source"}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "intermediate_trap_other", "EPR", "isolation_of_intermediate", "product_isotope_distribution", "cyclic_voltammetry"], "evidence_strength": "strong", "notes": "Authors note that direct quantitative detection of free Bpin radical was not possible; it may be stabilized by DIEA/THF. The lifetime/migration of the persistent benzyl radical F between electrodes is acknowledged as an open question. THF likely assists proton transfer to substrate ([THF]2H+) rather than serving as H source. With 2-vinylnaphthalene and excess HBpin (4.4 equiv), diboronate ester 7r forms selectively (71%), suggesting the benzyl radical can be further borylated rather than reduced/protonated when an extended π-system stabilizes it."}
